US05442064
1-(4-Cyanophenyl)-4-mesyloxymethyl-piperidine
To a solution of 5.5 g of 1-(4-cyanophenyl)-4-hydroxymethyl-piperidine and 5.16 g of triethylamine in 150 ml of methylene chloride, 5.84 g of methanesulphonic acid chloride are slowly added dropwise at ambient temperature and with stirring. After it has all been added the mixture is left to stand overnight and the solvent is removed under reduced pressure. The residue is chromatographed with methylene chloride/methanol (50:1) over silica gel. Yield: 6.95 g (93% of theory), Mass spectrum: (M+H)+ =295

reactant | 1-(4-cyanophenyl)-4-hydroxymethyl-piperidine | 5.5 g | C(#N)C1=CC=C(C=C1)N1CCC(CC1)CO | C13H16N2O
reactant | triethylamine | 5.16 g | C(C)N(CC)CC | C6H15N
reactant | methanesulphonic acid chloride | 5.84 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-Cyanophenyl)-4-mesyloxymethyl-piperidine | C(#N)C1=CC=C(C=C1)N1CCC(CC1)COS(=O)(=O)C | C14H18N2O3S
